US05236952
10 g of ethyl (3,4-dimethoxy-5-nitrobenzoyl)acetate are suspended in 100 ml of ethanol, treated with 1.7 g of methylhydrazine and heated under reflux for 16 hours. After distillation of about 50 ml of ethanol, the mixture is cooled to 0° and the separated precipitate is filtered under suction. After recrystallization from ethanol there is obtained 3-(3,4-dimethoxy-5-nitrophenyl)-1-methylpyrazol-5-ol in the form of yellow crystals of m.p. 200°-202°.

reactant | ethyl (3,4-dimethoxy-5-nitrobenzoyl)acetate | 10 g | COC=1C=C(C(=O)CC(=O)OCC)C=C(C1OC)[N+](=O)[O-] | C13H15NO7
reactant | methylhydrazine | 1.7 g | CNN | CH6N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(3,4-dimethoxy-5-nitrophenyl)-1-methylpyrazol-5-ol | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NN(C(=C1)O)C | C12H13N3O5
